US05726165
(S)-4-{2-[2-Hydroxy-3-(4-hydroxy-3-hydroxymethylphenoxy)propylamino]ethyl}phenoxymethyl-(3-benzyloxypropyl)phosphinic acid
The title compound was prepared from (S)-4-{2-[2-hydroxy-3-(4-hydroxy-3-hydroxymethyl-phenoxy)propylamino]ethyl}phenoxymethyl-(3-benzyloxypropyl)phosphinic acid, n-butyl ester according to a modification of the procedure described in Example 5. Acidification to pH 3.5 with 1M hydrochloric acid followed by C18 reverse phase chromatography, eluting with water-methanol (30%) and freeze drying of the resultant foam gave the title compound as a solid.

reactant | (S)-4-{2-[2-hydroxy-3-(4-hydroxy-3-hydroxymethyl-phenoxy)propylamino]ethyl}phenoxymethyl-(3-benzyloxypropyl)phosphinic acid, n-butyl ester | OC(CNCCC1=CC=C(OC[P@](OCCCC)(=O)CCCOCC2=CC=CC=C2)C=C1)COC1=CC(=C(C=C1)O)CO | C33H46NO8P
reactant | hydrochloric acid | 1M | Cl | ClH
product | (S)-4-{2-[2-Hydroxy-3-(4-hydroxy-3-hydroxymethylphenoxy)propylamino]ethyl}phenoxymethyl-(3-benzyloxypropyl)phosphinic acid | O[C@@H](CNCCC1=CC=C(OCP(O)(=O)CCCOCC2=CC=CC=C2)C=C1)COC1=CC(=C(C=C1)O)CO | C29H38NO8P
